US04046905
A mixture of 26 gm. 2-(4-ethyl-2-fluorophenyl) benzoxazole, 19.76 gm. of N-bromosuccinimide and 50 mg. of dibenzoyl peroxide in 150 cc. of carbon tetrachloride is refluxed until the N-bromosuccinimide is consumed. The reaction mixture is filtered and the filtrate concentrated to give a 2-[4-(1-bromoethyl)-2-fluorophenyl]benzoxazole, m.p., 103°-104° C.

reactant | 2-(4-ethyl-2-fluorophenyl) benzoxazole | C(C)C1=CC(=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C15H12FNO
reactant | N-bromosuccinimide | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | dibenzoyl peroxide | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
product | 2-[4-(1-bromoethyl)-2-fluorophenyl]benzoxazole | BrC(C)C1=CC(=C(C=C1)C=1OC2=C(N1)C=CC=C2)F | C15H11BrFNO
